US04886810
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.22 g), cis-3-aminomethyl-4-methylpyrrolidine (1.68 g), and acetonitrile (30 ml) was refluxed for 4.5 hours. The reaction mixture was concentrated to dryness under reduced pressure. The resulting crude crystals were recrystallized from ethanol to give 5-amino-7-(cis-3-aminomethyl-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.3 g), recrystallized from ethanol-chloroform, m.p. 221°-223° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.22 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | cis-3-aminomethyl-4-methylpyrrolidine | 1.68 g | NC[C@@H]1CNC[C@@H]1C | C6H14N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-amino-7-(cis-3-aminomethyl-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.3 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)C)CN)F)C1CC1)C(=O)O)=O | C19H22F2N4O3
